US08022062B2
4-(Piperidin-1-ylcarbonyl)-benzylamine
Use the General Procedure 6-1, using piperidine (373 mg, 4.4 mmol) and 4-(tert-butoxycabonylamino-methyl)-benzoic acid to give the title compound as a white solid (1.03 g, 100%). MS (ES+) m/z: 219 (M+H)+.

reactant | piperidine | 4.4 mmol, 373 mg | N1CCCCC1 | C5H11N
reactant | 4-(tert-butoxycabonylamino-methyl)-benzoic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
product | 4-(Piperidin-1-ylcarbonyl)-benzylamine | 1.03 g, 100% | N1(CCCCC1)C(=O)C1=CC=C(CN)C=C1 | C13H18N2O
